US08975443B2
A flask was charged with 0.40 g of 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-one (0.89 mmol, 1.0 equiv), 10 mL of argon-sparged toluene, 0.65 mL of 1,3-propanediol (8.9 mmol, 10 equiv) and 0.015 g of p-toluenesulfonic acid monohydrate (0.09 mmol, 0.1 equiv). The atmosphere was purged with argon and the reaction flask was equipped with a Dean-Stark trap and warmed in an oil bath at 125° C. for 20 h under argon atmosphere. The distilled toluene was collected in the Dean-Stark trap. The reaction mixture was cooled to room temperature, quenched with saturated aqueous sodium bicarbonate and partitioned between toluene and water. The aqueous solution was back extracted once with toluene, the combined organic solution was washed once with water, dried over potassium carbonate and concentrated in vacuo. The unpurified material was purified by flash chromatography over silica gel with gradient elution using acetone/heptane mixtures. After concentration. 0.3 g (66% yield) of 8,8,10,10-tetramethyl-9-(2′,4′,6′-triisopropylbiphenyl-2-yl)-1,5-dioxa-9-phosphaspiro[5.5]undecane was isolated as a solid. 1H NMR(C6D6, 500 MHz) δ ppm 1.02 (d, 6H, J=10 Hz), 1.12 (d, 6H, J=7 Hz), 1.24 (d, 6H, J=7 Hz), 1.31-1.28 (pent, 2H, J=5.5 Hz), 1.42 (d, 6H, J=20 Hz), 1.45 (d, 6H, J=7 Hz), 2.13 (d, 2H, J=14.5 Hz), 2.25 (dd, 2H, J=14.5, 6 Hz), 2.80 (sept, 2H, J=7 Hz), 2.86 (sept, 1H, J=7 Hz), 3.48 (t, 2H, J=5.5 Hz), 3.72 (t, 2H, J=5.5 Hz), 7.01 (td, 1H, J=7.5, 1.5 Hz), 7.08 (br t, 1H, J=7.5 Hz), 7.24 (s, 2H), 7.26-7.24 (m, 1H), 7.89 (br d, 1H, J=8 Hz); 31P NMR(C6D6, 200 MHz) δ ppm-2.7 (br singlet).

reactant | 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-one | 0.89 mmol, 0.40 g, 1.0 equiv | CC1(P(C(CC(C1)=O)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C30H43OP
reactant | 1,3-propanediol | 8.9 mmol, 0.65 mL, 10 equiv | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid monohydrate | 0.09 mmol, 0.015 g, 0.1 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 8,8,10,10-tetramethyl-9-(2′,4′,6′-triisopropylbiphenyl-2-yl)-1,5-dioxa-9-phosphaspiro[5.5]undecane | 0.3 g, 66% yield | CC1(CC2(OCCCO2)CC(P1C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)(C)C)C | C33H49O2P
